US05198208
Diglycolic acid (67.05 g, 0.5 mol) was dissolved in a mixture of methanol (122 ml, 30 mol) and 1,2-dichloroethane (150 ml). KSF-catalyst (Aldrich) (2.5 g) was added and the mixture was refluxed for 15 hours. The mixture was cooled to ambient temperature, filtered through alumina, washed with aqueous saturated sodium hydrogen carbonate (100 ml) and dried over magnesium sulphate. The solvent was evaporated and diglycolic acid dimethyl ester was isolated after distillation as a colourless oil.

reactant | Diglycolic acid | 0.5 mol, 67.05 g | C(COCC(=O)O)(=O)O | C4H6O5
reactant | methanol | 30 mol, 122 ml | CO | CH4O
reactant | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | diglycolic acid dimethyl ester | COC(COCC(=O)OC)=O | C6H10O5
